US04308259
(a) 2-(2-Chlorophenyl)-2-sulphoacetyl chloride
A solution of 2-(2-chlorophenyl)acetyl chloride (1.89 g, 10 mmole) in dichloromethane (20 ml) was treated with a suspension of sulphur trioxide--dioxane complex (15 mmole) in dichloroethane at 0° C. The mixture was stirred at room temperature for eighteen hours and evaporated to afford a yellow gum. νmax. (CHCl3) 1800 cm-1.

reactant | 2-(2-chlorophenyl)acetyl chloride | 10 mmole, 1.89 g | ClC1=C(C=CC=C1)CC(=O)Cl | C8H6Cl2O
reactant | sulphur trioxide | S(=O)(=O)=O | O3S
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-(2-Chlorophenyl)-2-sulphoacetyl chloride | ClC1=C(C=CC=C1)C(C(=O)Cl)S(=O)(=O)O | C8H6Cl2O4S
